US06172085B2
6-(Dipenylmethoxy)hexyl chloride
Using benzhydrol and 6-chloro-1-hexanol, the procedure of Reference Example 15 was otherwise repeated to provided the title compound. Yield 88%. Oil.

reactant | benzhydrol | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | 6-chloro-1-hexanol | ClCCCCCCO | C6H13ClO
product | 6-(Dipenylmethoxy)hexyl chloride | Yield 88% | C1(=CC=CC=C1)C(OCCCCCCCl)C1=CC=CC=C1 | C19H23ClO
